US07638515B2
2-(2-Fluoro-3-methoxyphenyl)-2-methylpropanenitrile
4 g (24.22 mmol) of 2-fluoro-3-methoxybenzyl cyanide is dissolved in 38 ml of N,N-dimethylformamide and mixed with 6.87 g (48.35 mmol) of methyl iodide. At 0° C., 2.11 g (48.35 mmol) of sodium hydride (55%) is added in portions within 45 minutes. After 20 hours of stirring at room temperature, the batch is poured into ice water and extracted three times with 200 ml each of diethyl ether. The organic phases are washed with water and brine and dried. After the desiccant is filtered off and after the solvent is spun off, the residue is chromatographed on silica gel (mobile solvent ethyl acetate/hexane). 4.66 g (99.5%) of the desired compound is isolated.

reactant | 2-fluoro-3-methoxybenzyl cyanide | 24.22 mmol, 4 g | FC1=C(CC#N)C=CC=C1OC | C9H8FNO
reactant | methyl iodide | 48.35 mmol, 6.87 g | CI | CH3I
reactant | sodium hydride | 48.35 mmol, 2.11 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 38 ml | CN(C=O)C | C3H7NO
product | 2-(2-Fluoro-3-methoxyphenyl)-2-methylpropanenitrile | 4.66 g, 99.5% | FC1=C(C=CC=C1OC)C(C#N)(C)C | C11H12FNO
